### PR TITLE
Lam-Litt conjecture on algebraic ODE and move MvRatFunc

### LINKED ISSUE #160: Conjecture by Litt-Lam on algebraicity of solution of differential equation
### What is the conjecture

[Litt-Lam](https://arxiv.org/pdf/2501.13175) recently proposed a conjecture (Conjecture 1.1.1) that give if and only if conditions for algebraicity of solutions of ODEs. For Linear ODEs, this is known to be stronger than [Grothendieck-Katz p-curvature conjecture](https://en.wikipedia.org/wiki/Grothendieck%E2%80%93Katz_p-curvature_conjecture). They proved the conjecture for some class of ODEs.

### Prerequisites needed

I believe most of the prerequisites are in mathlib, but haven't checked in detail.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11?

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by seewoo5**
Closes #160 

Note that I also moved duplicated `MvRatFunc` to a shared file. I found a related discussion on Zulip: [#Is there code for X? > &#96;MvRatFunc&#96;? @ 💬](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/.60MvRatFunc.60.3F/near/484464450)

Also, see [here](https://www.problemsilike.com/1) for Litt's website

### CODE REVIEW

File: FormalConjectures/LittProblems/1.lean
Comment (mo271) [inline FormalConjectures/LittProblems/1.lean:1]: I think it might potentially be nicer to move the file to `ProblemsILike/1.lean`? It seems like they are nicely organised. If that name is to weird then `LittProblems/1.lean`, which is also the title of the website.

File: FormalConjectures/Arxiv/2501.13175/LamLitt.lean [hunk 1]
```diff
@@ -0,0 +1,108 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/Arxiv/2501.13175/LamLitt.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

File: FormalConjectures/Arxiv/2501.13175/LamLitt.lean [hunk 2]
```diff
@@ -0,0 +1,108 @@
...
+-/
+def IsCoeffIntegralAdjointInvNat (f : PowerSeries ℚ) (N : ℕ) : Prop :=
+  ∀ n : ℕ, PowerSeries.coeff n f ∈ ℤAdjoinInvNat N
+
+/--
+A rational function $g$ is defined at a point $x_0$ if $g$ can be written as $p / q$
+where $p, q$ are polynomials and $q(x_0) \neq 0$.
+-/
+def IsDefined (n : ℕ) (g : MvRatFunc (Fin n) ℚ) (x₀ : Fin n → ℚ) : Prop :=
+  ∃ p q : MvPolynomial (Fin n) ℚ, g = (algebraMap _ _ p) / (algebraMap _ _ q) ∧ q.eval x₀ ≠ 0
```
Comment (mo271) [inline FormalConjectures/Arxiv/2501.13175/LamLitt.lean]: this is unused: also potentially move the ForMathlib?

File: FormalConjectures/Arxiv/2501.13175/LamLitt.lean [hunk 3]
```diff
@@ -0,0 +1,108 @@
...
+the rational numbers $a_0, a_1, \dots, a_{\omega(p)}$ are in $\mathbb{Z}_{(p)}$.
+-/
+@[category research open, AMS 12]
+theorem lam_litt {n : ℕ} (f : PowerSeries ℚ) (g : MvRatFunc (Fin (n + 1)) ℚ)
+  (hODE : IsSolutionOfAlgebraicODE n f g) :
+    List.TFAE [
+      IsAlgebraic (Polynomial ℚ) f,
+      (∃ N : ℕ, IsCoeffIntegralAdjointInvNat f N),
+      (∃ ω : Nat.Primes → ℕ, omegaSuperlinear ω ∧ omegaIntegral ω (PowerSeries.coeff · f))
+    ] := by
```
Comment (mo271) [inline FormalConjectures/Arxiv/2501.13175/LamLitt.lean]: It would be interesting to potentially separate out the known implication from the open ones in the `TFAE` here. If I understand correctly (1)=>(2) and (2)=>(3) are not `research open`? 

```lean
/--
Eisenstein's theorem (1852): an algebraic power series over $\mathbb{Q}[z]$ has bounded
denominators, i.e., there exists $N$ such that all coefficients lie in $\mathbb{Z}[1/N]$.
-/
@[category textbook, AMS 12 13]
theorem lam_litt.variants.eisenstein (f : PowerSeries ℚ) (hAlg : IsAlgebraic (Polynomial ℚ) f) :
    ∃ N : ℕ, IsCoeffIntegralAdjointInvNat f N := by
  sorry

/--
Textbook implication: integrality (2) trivially implies ω(p)-integrality (3).
-/
@[category textbook, AMS 12]
theorem lam_litt.variants.integrality_implies_omega_integrality
    (f : PowerSeries ℚ) (N : ℕ) (hN : IsCoeffIntegralAdjointInvNat f N) :
    ∃ ω : Nat.Primes → ℕ, omegaSuperlinear ω ∧ omegaIntegral ω (PowerSeries.coeff · f) := by
  sorry
```
for the last one, potentially also `research solved` instead of `textbook`?

Then also one could have two `research open` statements for (3)=>(2) and (2)=>(1), if that makes sense?

File: FormalConjecturesForMathlib/FieldTheory/MvRatFunc/Defs.lean [hunk 4]
```diff
@@ -15,19 +15,11 @@ limitations under the License.
...
-
-/-- `circumference G` is the length of the longest cycle in `G`.
-    It is `0` when `G` is acyclic. -/
-noncomputable def circumference (G : SimpleGraph α) [DecidableRel G.Adj] : ℕ :=
-  sSup { n : ℕ | ∃ (a : α) (w : G.Walk a a), w.IsCycle ∧ w.length = n }
-
-end SimpleGraph
+/-- The field of multivariate rational functions in variables indexed by `σ` over a commutative
+ring `K`, defined as the fraction field of the multivariate polynomial ring `MvPolynomial σ K`. -/
+abbrev MvRatFunc (σ K : Type*) [CommRing K] := FractionRing (MvPolynomial σ K)
```
Comment (mo271) [inline FormalConjecturesForMathlib/FieldTheory/MvRatFunc/Defs.lean:25]: definitely good to move to ForMathlib!
Potentially one could add a few basic lemma's/API tests here.

**Review by mo271 — COMMENTED** [review]
Thanks, looks very good to me. Really nice to see the first of "problemsilike" here!

Mathematically it all looks correct to me, just some minor suggestions

File: FormalConjectures/LittProblems/1.lean
Comment (seewoo5) [reply FormalConjectures/LittProblems/1.lean:1]: I made `LittProblems`!

File: FormalConjectures/Arxiv/2501.13175/LamLitt.lean (hunk 2 above)
Comment (seewoo5) [reply FormalConjectures/Arxiv/2501.13175/LamLitt.lean]: This supposed to be used in `IsSolutionOfAlgebraicODE` - I updated it. Thanks for catching this.

File: FormalConjectures/Arxiv/2501.13175/LamLitt.lean (hunk 3 above)
Comment (seewoo5) [reply FormalConjectures/Arxiv/2501.13175/LamLitt.lean]: I separated into four implications as you suggested (12, 23, 32, 21). For the AMS tags, especially the open directions 3->2 and 2->1, I choose AMS 11 and 14 to match with the authors' choice on arXiv.

File: FormalConjecturesForMathlib/FieldTheory/MvRatFunc/Defs.lean (hunk 4 above)
Comment (seewoo5) [reply FormalConjecturesForMathlib/FieldTheory/MvRatFunc/Defs.lean:25]: Do you have any recommendation? I checked [RatFunc](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/RatFunc/Defs.html#RatFunc) but not sure which one can be trivially/easily formalized..

**Comment by seewoo5** [comment]
I found that adding claude as coauthor blocks to pass cla check, so I force-pushed the recent commits.

**Comment by seewoo5** [comment]
Additional updates: the codomain of \omega changed from N to Z. The paper uses Z, but I originally put N since omega-integrality is on denominators of a_0, ..., a_{\omega(p)}, so I thought N might be better. But I found that makes the trivial direction (2) => (3) False (e.g. take f(x) = 1/2), so I changed to Z and added a proof of (2) => (3).

File: FormalConjecturesForMathlib/FieldTheory/MvRatFunc/Defs.lean (hunk 4 above)
Comment (mo271) [reply FormalConjecturesForMathlib/FieldTheory/MvRatFunc/Defs.lean:25]: Let's leave as is for now... 
Definition look good in any case

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!
